US09145433B2
6-(2-chloropyridin-3-yl)-4-methoxypyrido[3,2-d]pyrimidine (2.0 g, 7.3 mmol), 3-chloro-4-fluoro-phenylboronic acid (2.5 g, 14.3 mmol), KF (2.5 g, 43.0 mmol) and 1,4-dioxane (75 mL) and stir bar were added to a reaction flask. The contents were degassed by vacuum and back filled with argon three times while stirring. Subsequently, commercially available catalyst Pd2(dba)3.t-Bu3P.HBF4 (1:2) (1 g, 0.67 mmol) was added to the reaction contents, repeated degassing cycles and heated at 90° C. under argon. Colorimetric changes were observed after the introduction of catalyst and as the reaction progressed from pale pink to yellow to off-green slurries. After 6 h, the reaction stirring was stopped, filtered the hot slurry and washed the cake with additional amount of dioxane (30 mL). The pale yellow clear filtrate solution was passed through a pad of Celite® and concentrated the filtrate. The crude solid residue was partitioned between CH2Cl2 (150 mL)/water (50 mL). The organic layer was separated, dried over MgSO4, filtered and concentrated. The crude concentrate was stirred in 60% EtOAc/hexanes (30 mL), suction filtered and dried the solid to obtain 1.6 g of (purity: 95%) 6-(2-(3-chloro-4-fluorophenyl)pyridin-3-yl)-4-methoxypyrido[3,2-d]pyrimidine as an off-white solid. The filtrate was concentrated and purified the concentrate by flash column chromatography (Combiflash® companion System® with RediSep® silica gel column 40 g, 0-30-60% EtOAC/hexanes eluting solvent gradient) to obtain additional 0.65 of titled compound.

reactant | 6-(2-chloropyridin-3-yl)-4-methoxypyrido[3,2-d]pyrimidine | 7.3 mmol, 2.0 g | ClC1=NC=CC=C1C=1C=CC=2N=CN=C(C2N1)OC | C13H9ClN4O
reactant | 3-chloro-4-fluoro-phenylboronic acid | 14.3 mmol, 2.5 g | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | KF | 43.0 mmol, 2.5 g | [F-].[K+]
reactant | HBF4 | 0.67 mmol, 1 g | [H+].[B-](F)(F)(F)F
solvent | 1,4-dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | 6-(2-(3-chloro-4-fluorophenyl)pyridin-3-yl)-4-methoxypyrido[3,2-d]pyrimidine | ClC=1C=C(C=CC1F)C1=NC=CC=C1C=1C=CC=2N=CN=C(C2N1)OC | C19H12ClFN4O
